US05034395
A mixture of 9 g of 4(E)-(1-ethoxyethoxy)-cinnamyl alcohol and 0.5 ml of triethylamine was heated at 70°-80° C., and 6 g of diketene was slowly added dropwise thereto. After the addition was finished, the reaction mixture was heated at 110°-120° C. for 30 minutes. After the reaction was completed, the solvent was removed by evaporation under a reduced pressure, and the residue thus obtained was purified by means of a silica gel column chromatography (eluent: diethyl ether: n-hexane=1:3) to yield 8.8 g of 4(E)-(1-ethoxyethoxy)cinnamyl acetoacetate. Refractive index: D24 1.5305

reactant | 4(E)-(1-ethoxyethoxy)-cinnamyl alcohol | 9 g | C(C)OC(C)OC1=CC=C(/C=C/CO)C=C1 | C13H18O3
reactant | diketene | 6 g | C=C1CC(=O)O1 | C4H4O2
solvent | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
product | 4(E)-(1-ethoxyethoxy)cinnamyl acetoacetate | 8.8 g | C(CC(=O)C)(=O)OC\C=C\C1=CC=C(C=C1)OC(C)OCC | C17H22O5
